US09421205B2
(b) tert-Butyl 4-(4-nitrophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate (I134 and I135)
A solution of 2 M aqueous Na2CO3 (5.70 mL, 9.09 mmol) was added to a degassed mixture of 4-nitrophenylboronic acid (0.909 g, 1.52 mmol, 1.2 eq), tert-butyl 4-(((trifluoromethyl)sulfonyl)oxy)-2,3-dihydro-1H-pyrrole-1-carboxylate (I34 and 135) (1.44 g, 4.54 mmol), LiCl (0.385 g, 9.08 mmol) and Pd(PPh3)4 (1.57 g, 1.36 mmol) in 1,4-dioxane (10 mL). The reaction mixture was stirred at 80-90° C. for 4 hours. The resulting mixture was dissolved in EtOAc (70 mL) and the organic layer was washed with H2O (50 mL), brine (50 mL) and dried over Na2SO4 to yield a dark red oil. The oil was purified by column chromatography on silica gel (0-20% EtOAc in petroleum benzine 40-60° C.) to give a mixture of the title compounds (1134 and 1135) (0.442 g, 34%) as a light yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.41-8.32 (m, 2H), 8.24-8.19 (m, 2H), 7.81-7.73 (m, 2H), 7.52 (dd, J=8.8, 2.4 Hz), 6.43-6.33 (m, 1H), 4.58-4.48 (m, 4H), 4.42-4.31 (m, 4H), 1.52 (s, 9H), 1.51 (s, 9H).

reactant | Na2CO3 | 9.09 mmol, 2 M, 5.70 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-nitrophenylboronic acid | 1.52 mmol, 0.909 g, 1.2 eq | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | tert-butyl 4-(((trifluoromethyl)sulfonyl)oxy)-2,3-dihydro-1H-pyrrole-1-carboxylate | 4.54 mmol, 1.44 g | FC(S(=O)(=O)OC=1CCN(C1)C(=O)OC(C)(C)C)(F)F | C10H14F3NO5S
reactant | LiCl | 9.08 mmol, 0.385 g | [Li+].[Cl-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.36 mmol, 1.57 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-(4-nitrophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C=1CCN(C1)C(=O)OC(C)(C)C | C15H18N2O4
